Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"No complaints." 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including initial consultation notes by Dr. ___ 
___ and Dr. ___ dated ___.
.
Briefly, this is a ___ year old AA man with prior diagnoses of 
schizoaffective disorder vs. schizophrenia, s/p numerous 
psychiatric hospitalizations with patient reporting recent 
discharge from ___, longstanding history of 
medication noncompliance, medical history notable for reported 
history of Type II DM and HTN, who self presented to ___ ED 
reporting feeling safe in the community, believing a group of 
people were out to harm him. 
.
Initial interview was limited as patient was somewhat somnolent 
on examination. However, collateral from ___ revealed 
documented history of paranoid schizophrenia with frequent 
hospitalizations and medication non-adherence. Patient was 
recently discharged from ___ from ___ for 
decompensated psychosis. Prior to this, he had been seen at ___ 
in ___, reporting to feel unsafe in his neighborhood 
and was noted to be guarded, paranoid, and disorganized on 
examination. He also reported being off medications since an 
inpatient hospitalization at ___ in ___. 
Prior to this, patient was last seen by BEST in ___ at which 
time he was brought to the ED after attempting to stab police 
officers and flee from EMS. 
.
ED Course: patient was in adequate behavioral control and did 
not require physical or chemical restraints. 
.
On our interview with Mr. ___, who was guarded throughout the 
interview and a limited historian, he confirmed the history 
initially provided in the ED. Reported he "felt unsafe in the 
community and I was told if I ever feel unsafe to call ___ or go 
to the ER." Reported he asked to be admitted because "I wanted 
to get out of the community." Reports that he has been followed 
for about ___ years, stating the police are coming after him and 
when the police cannot come after him, "they send criminals over 
here to do it." Reported it is "always different people" but 
could not state who the people were or why they would be after 
him. States he feels better in the hospital because "I needed a 
safe place to stay for a few days to foil their plans." 
.
Reported he lives alone, but patient would not state where, "I 
won't discuss my living situation. Reported he spends his days 
"minding my own business... I did everything I wanted to do in 
my life and now I spend my days keeping safe." Denies having any 
supports. 
.
On psychiatric review of systems, patient denied depression, 
difficulties with sleep, concentration, appetite. Denies SI/HI. 
Denied AVH, denied thought insertion or broadcasting. Unclear if 
history of manic symptoms with patient reporting he has been up 
for days at a time hiding from the police and those who were out 
to get him. Denies alcohol or drug use. Medical review of 
systems were unremarkable with patient denying headaches, visual 
changes, chest pain, palpitations, shortness of breath, n/v/d. 
 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: per OMR, patient with diagnosis of schizophrenia 
vs.
schizoaffective disorder with first psychotic break reportedly 
at
age ___. 
- SA/SIB: denies/denies 
- Hospitalizations: s/p numerous hospitalizations, with prior 
OMR
notes indicating more than ___ including ___ in
___, ___, ___,
___, ___,
and ___ of note in ___ patient was
admitted for hypothermia and rhabdo in the setting of
decompensated psychosis, patient eloped from medical unit.
Numerous hospitalizations on ___, admission to ___ 
- Psychiatrist: none, patient reportedly had a referral to ___
but did not make intake appointment 
- Therapist: none known 
- Medication Trials: numerous, including Clozaril (with
documented good response), risperidone, risperidone consta,
Haldol Decanoate, Abilify 
- Per collateral from BEST, patient has history of assault and
battery in the past, was seen in ___ after attempting to stab
police officers and flee from EMS. Patient denies history of 
past
violence. 
.
Past Medical History: 
- HTN 
- Type II DM (per OMR) 
- h/o hypothermia and rhabdomyolysis in the setting of acute
psychosis in ___ 
- TD 
 
Social History:
Substance History:  
- Alcohol: denies 
- Illicits: initially denies, but then stated he has
intermittently used cannabis with last use about 2 months ago
- Tobacco: denies 
.
Social History: ___
Family History:
Family History: 
- Diagnoses: Denies
- Suicides: denies 
- Addictions: none known 
 
Physical Exam:
on admission:

VITAL SIGNS:
Temp: 98.1 (Tm 98.1), BP: 139/88, HR: 79, RR: 17, O2 sat: 98%
.
General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes,  
oropharynx clear. No scleral icterus,  
 -Cardiovascular: Regular rate and rhythm, normal S1,S2, no 
murmurs/rubs/gallops. 
 -Pulmonary: No increased work of breathing.  Lungs clear to  
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive. No  
tenderness to palpation in all quadrants. No guarding, no  
rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.
.
Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: pupils 3mm, equal, round
 ---III, IV, VI: EOMI without nystagmus
 ---V: Masseter ___ bilaterally
 ---VII: nasolabial folds symmetric bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX,X: Palate elevates symmetrically
 ---XI:  trapezii ___ symmetric bilaterally
 ---XII: Tongue protrudes midline
 -Motor: Normal bulk and tone bilaterally. Moving all 
extremities anti gravity
 -Sensory: deferred
 -DTRs: deferred
 ___: Normal on finger to nose test, no intention 
tremor  noted
 -Gait: Good initiation. Narrow-based, normal stride and arm  
swing.  
.
Absence of resting tremor, absence of action tremor 
Absence of rigidity or spasticity
.
Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: WORLD backwards w/ 0 errors
 -Orientation: THE ___ ___,
 -Executive function (go-no go, Luria, trails, FAS): absence of 
ideomotor apraxia: able to brush teeth, comb hair
 -Memory: ___ Violet, Church, and with hint corrects (___) 
 -Fund of knowledge: Identifies first president as ___ 
___
 -Calculations: 7 quarters = "$1.50"
 -Abstraction: grass is greener = the other situation looks 
better
 -Visuospatial: L thumb to R. ear
 -Language: Native ___ speaker, no paraphasic errors,  
appropriate to conversation, repetition of particular 
phrases/words, "yes, sir"
.
Mental Status:
 -Appearance/Behavior: AA gentleman appearing younger than 
stated age, well groomed beard, seated in chair on initial 
approach. shakes examiners hand appropriately, absence of 
psychomotor agitation, intense eye contact, occasional bizarre 
lip movements concerning for TD.
 -Attitude: Engaged, friendly
 -Mood: "good"
 -Affect: mood incongruent, irritable, guarded, full range, 
appropriate to situation
 -Speech: Normal rate, volume, and tone, occasional stuttering 
of words, 
 -Thought process: Linear, coherent, goal-oriented, no loose  
associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: +paranoia, suspiciousness
 ---Obsessions/Compulsions: No evidence based on current 
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to 
 internal stimuli
 -Insight: poor
 -Judgment: limited

on discharge:
Mental Status Exam:
Appearance: well groomed, taking showers
facial expression: relaxed
build: WNL
Behavior: engaging, cooperative, pleasant, addressing questions
Eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "good", stable, no irritability, no anxiety
Thought Process/content: linear, goal directed,  denies SI/HI,
denies AH/VH, baseline delusions - minimal
Intellectual Functioning: improved concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair/limited

 
Pertinent Results:
___ 09:45PM BLOOD WBC-9.2 RBC-4.06* Hgb-12.3* Hct-37.4* 
MCV-92 MCH-30.3 MCHC-32.9 RDW-13.2 RDWSD-44.1 Plt ___
___ 09:45PM BLOOD Glucose-101* UreaN-10 Creat-1.1 Na-141 
K-4.7 Cl-105 HCO3-25 AnGap-11
___ 06:45AM BLOOD ALT-25 AST-19 LD(LDH)-237 AlkPhos-146* 
TotBili-0.3
___ 06:45AM BLOOD Albumin-3.9
___ 09:45PM BLOOD Calcium-9.3 Phos-3.9 Mg-2.3
___ 06:45AM BLOOD VitB12-890
___ 06:45AM BLOOD %HbA1c-5.7 eAG-117
___ 06:45AM BLOOD TSH-1.9
___ 09:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:45AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 06:45AM BLOOD ALT-25 AST-19 LD(LDH)-237 AlkPhos-146* 
TotBili-0.3
___ 06:45AM BLOOD Albumin-3.9
___ 07:15PM BLOOD Cholest-236*
___:45AM BLOOD VitB___-___
___ 06:45AM BLOOD %HbA1c-5.7 eAG-117
___ 07:15PM BLOOD Triglyc-230* HDL-48 CHOL/HD-4.9 
LDLcalc-142*
___ 06:45AM BLOOD TSH-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ year old AA man with prior diagnoses of 
schizoaffective disorder vs. schizophrenia, s/p numerous 
psychiatric hospitalizations with patient reporting
recent discharge from ___, longstanding history of 
medication noncompliance, medical history notable for reported 
history of Type II DM and HTN, who self presented to ___ ED 
reporting feeling safe in the community, believing a group of 
people were out to harm him. 
.
History and presentation notable for longstanding history of 
chronic severe psychosis with years of medication noncompliance 
despite admissions to intermediate care and treatment with long 
acting injectables. Patient's presentation is consistent with 
prior presentations with delusions/paranoia that others are out 
to get him, somewhat irritable mood with patient guarded on 
examination. 
.
Diagnostically, etiology of presentation is likely secondary to 
primary psychotic disorder-- although he does carry a diagnosis 
of schizoaffective disorder vs. bipolar, he does not appear 
depressed and he is certainly not manic on examination. Does 
appear paranoid with some negative symptoms (somewhat withdrawn, 
concrete thought process) but with thought process that is 
mostly linear, goal oriented; he also appears to be attending to 
his ADL's adequately. Nothing on physical examination that would 
suggest an underlying medical condition is contributing to his 
current presentation. Toxicology screen was negative, although 
patient did endorse intermittent cannabis use-- this may be 
playing a role in worsening his paranoia. 
.
Regardless of diagnosis, given concern for decompensated 
psychosis with inability to care for himself in the community, 
he was found to meet inpatient level of care for stabilization 
of symptoms, discharge and safety planning. 
.
1. LEGAL & SAFETY: patient was admitted to ___ on a 
___, upon admission he did sign a conditional voluntary 
form, which was rejected due to possible lack of capacity.  
However, patient was willing to sign a conditional voluntary 
form later in admission, which was accepted and in place until 
discharge.  He was found to be in adequate behavioral control, 
appropriate for 15-minute checks, which he remained on 
throughout admission while remaining unit restricted.
.
2. PSYCHIATRIC:
#.  Schizophrenia
Upon admission, patient demonstrated delusions/paranoia that 
others are out to get him, somewhat irritable mood with patient 
guarded on examination. Patient was initially offered 
Risperidone upon admission to treat the above stated symptoms, 
and this medication was well-tolerated and eventually 
up-titrated to a final dose of 3 mg BID upon discharge. This 
medication was helpful for the patient's paranoia and  
irritability, and upon discharge patient's MSE was notable for 
pleasant and appropriate mood and conduct, denial of suicidal or 
homicidal thoughts, and reported feelings of safety to return to 
the community. The patient was also offered Ativan as needed for 
agitation and anxiety, which he often utilized appropriately 
with good effect. This medication was continued upon discharge 
at a dose of 1 mg PO BID as needed for anxiety with 
recommendation to continue to taper as clinically indicated. The 
patient was also prescribed Diphenhydramine for to aid in 
mitigating side effects from antipsychotic medication, which the 
patient found to be helpful for tremor without major side 
effects, and he was prescribed a total of 50 mg TID as needed by 
time of discharge. 
.
3. SUBSTANCE USE DISORDERS:
Patient denied any significant substance use history other than 
occasional cannabis use, from which he was counseled to remain 
abstinent. 
.
4. MEDICAL
#. HTN: Patient normotensive on this admission
Patient was found to be with no hypertension on this admission, 
and we recommended that he follow up with his PCP regarding this 
upon DC.
.
#. Type II DM: per OMR, patient denies history of diabetes
HbA1c was found to be 5.7% during admission, and we recommended 
that the patient follow up with his PCP with regards to this. 
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient rarely attended these groups. The patient was somewhat 
isolative, but fairly visible within the milieu without ever 
demonstrating angry outbursts or inappropriate conduct with 
peers or staff. 
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
With the patient's written consent, we sent a records request to 
___ detailing his previous admission. Patient was 
admitted there from ___ until ___ for a decompensation 
of underlying schizophrenia. He was prescribed Risperidone 4 mg 
QHS upon discharge with Diphenhydramine 50 mg TID and Trazodone 
100 mg QHS. He was isolative and guarded, but otherwise his 
admission was without major behavioral control issues.   
.
#) INTERVENTIONS
- Medications: Risperidone, Diphenhydramine, Ativan
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: follow up with psychiatry and PCP 
___. 
.
INFORMED CONSENT: Risperidone
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting this medication, 
including tardive dyskinesia, metabolic syndrome and EPS, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team. The patient appeared able to understand 
and consented to begin the medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
acutely elevated risk of inability to care for self based upon 
paranoia and disorganization. His  factors noted at that time 
include chronic mental illness, recent discharge from an 
inpatient psychiatric unit, history of violence, male gender, 
single relationship status, unemployment, financial hardship, 
chronic medical illness, psychosis,
disorganized and unpredictable behavior, medication 
noncompliance, poorly controlled mental illness, lack of 
engagement with outpatient treatment, poor reality testing, and 
limited coping skills. The patient's modifiable risk factors 
were addressed via medication adjustment, stabilization within a 
therapeutic milieu, and aftercare coordination. Finally, the 
patient is being discharged with many protective risk factors, 
including his help-seeking behavior, life satisfaction, 
future-oriented viewpoint, and lack of suicidal ideation. 
Overall, the patient is not at an acutely elevated risk of 
inability to care for self due to acutely decompensated 
psychiatric illness. Thus, I feel the patient does not meet 
section 12a criteria for inability to care for self at this 
time.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  DiphenhydrAMINE 50 mg PO TID:PRN anxiety, rigidity, tremors 
2.  LORazepam 1 mg PO TID PRN agitation, anxiety, insomnia  
3.  RisperiDONE 3 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Paranoid schizophrenia 

 
Discharge Condition:
VS: Temp 98.3 PO; BP 130/83; HR 104; RR 17; Oxygen sat 95%  
Mental Status:
-Appearance: ___ man appearing stated age, well groomed, 
wearing casual clothing and baseball cap, in no apparent 
distress
-Behavior: Sitting up, appropriate eye contact, no psychomotor 
agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "Good"
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence upon examination. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited 
-Judgment: Fair
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not assessed
-Memory: Not formally assessed but intact to interview
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___